Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Bradycardia, lightheadedness
 
Major Surgical or Invasive Procedure:
Pacemaker placement

 
History of Present Illness:
Patient is a ___ year old male recently discharged with high 
degree AV block after refusing pacemaker placement. He now 
re-presents with "wooziness" and lightheadedness. He was found 
to have high degree AV block on holter monitor.

 
Past Medical History:
- High-degree heart block
- Denies any other past medical history
 
Social History:
___
Family History:
Family history is non-contributory.  

 
Physical Exam:
VS - 98.0 181/90 100 20 97% RA ___ pain score  
Gen: elderly male in NAD. Oriented x3. very anxtious and worked 
up 
HEENT: NCAT. Sclera anicteric. PERRL, EOMI.   
Neck: Supple with JVP approx 6 cm.  
CV:  bradycardia, normal S1, S2. No m/r/g. 
Chest: pacemaker in place at left shoulder with bandage in 
place, no obvious bleeding, bruising or swelling around bandage. 

RESP: unlabored, no accessory muscle use. CTAB, no crackles, 
wheezes or rhonchi.  
Abd: Soft, NTND. 
Ext: no edema 
 
Pertinent Results:
EKG demonstrated bradycardia with ventricular rate approx 40, 
appears to have AV dissociation with 2:1 AV block. 
.
Chest X-Ray ___
FINDINGS: Two views with no comparisons. There is a left-sided 
dual-chamber cardiac pacemaker device with intact leads reaching 
the RA and RV apex, and no evidence of complication. The 
cardiomediastinal silhouette and pulmonary vessels are within 
normal limits, with no pleural effusion or other evidence of 
CHF. There is left basilar atelectasis or scarring, but no other 
focal airspace process. Noted are atherosclerotic changes 
involving the thoracic aorta, thoracic spinal DISH, and old 
healed fractures of the posterolateral right fifth and sixth 
ribs.
.

___ 01:15PM   GLUCOSE-128* UREA N-24* CREAT-1.1 SODIUM-140 
POTASSIUM-4.6 CHLORIDE-105 TOTAL CO2-24 ANION GAP-16
___ 01:15PM   CK(CPK)-207*
___ 01:15PM   cTropnT-0.03*
___ 01:15PM   CK-MB-9
___ 01:15PM   WBC-6.8 RBC-4.51* HGB-13.6* HCT-38.8* MCV-86 
MCH-30.2 MCHC-35.2* RDW-14.0
___ 01:15PM   NEUTS-71.0* ___ MONOS-4.3 EOS-0.9 
BASOS-0.5
___ 01:15PM   PLT COUNT-232
___ 01:15PM   ___ PTT-35.3* ___
 
Brief Hospital Course:
Patient is a ___ yo male without significant past medical history 
who presents with symptomatic AV disassociation with ventricular 
rate approx 40, now s/p pacemaker placement after refusal last 
week and readmission due to lightheadedness.  
.  
#. Rhythm: Patient has pacemaker placed, per telemetry and EKG, 
appeared to be paced rhythm, some native beats. His rate has 
been in the 60's to ___.  
- His pain was managed with percocet as needed. He had no pain 
at time of discharge.
- He was discharged on a course of keflex to prevent infection.  
 
- A chest x-ray confirmed placement of the leads.
- The devices was interogated prior to discharge and found to be 
working properly.
- Follow up was arranged in device clinic in one week's time to 
assess the device. He was also scheduled to follow up in 
cardiology clinic.
.  
#. Coronary artery disease: Patient has no documented coronary 
artery disease. He was continued on 81 mg of aspirin daily for 
prevention.  
.  
#. Pump: No documented ejection fraction. He had no evidence of 
congestive heart failure on history or exam. He continued to 
appear euvolemic on exam.  
.  
# Hypertension:  
Patient has no reported history of hypertension, but was noted 
to have a systolic blood pressure in 200's while in the in the 
lab during device placement. His systolic blood pressure was 
180's on arrival to the wards and 160's on first meeting the 
patient when at rest.  
It has been noted that he appears to have an element of 
agitation that relates to elevated blood pressure, as previously 
it went from 160 to 180 as the patient became angry.  During his 
stay, his blood pressure remained elevated in the 160s-180s 
range.
Given persistently elevated blood pressure, a low dose of 
amlodipine (2.5 mg), was initiated to avoid any effect of 
diuretic contributing to orthostatic hypotension.  
Patient should follow up with his primary care provider and in 
cardiology clinic for further blood pressure medication 
titration and adjustment.
.  
#. Code: Patient was full code during his admission. He 
expressed that he would not want long term life support, but 
would be willing to have shock or trial of intubation.  

 
Medications on Admission:
ASA 81 mg daily occasionally  
Glucosamine/Chondroitin  
fish oil  
Vitamin A&D occasionally 
 
Discharge Medications:
1. Aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
2. Cephalexin 500 mg Capsule Sig: One (1) Capsule PO Q12H (every 
12 hours) for 1 days.
Disp:*2 Capsule(s)* Refills:*0*
3. Amlodipine 2.5 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
Disp:*30 Tablet(s)* Refills:*2*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagonsis:
- High Degree Heart Block

 
Discharge Condition:
Stable, ambulating without difficulties, vital signs stable.

 
Discharge Instructions:
You were admitted due to a slow heart rate leading to symptoms 
of lightheadedness and dizziness. During your last admission it 
was found that you had a conduction called heart block; during 
this admission a pacemaker was implanted to help prevent 
symptoms from your slow heart rate. 
.
You will need to follow up at the Pacemaker Device clinic next 
week to ensure the pacemaker is properly working.
.
You were also started on a medication for your blood pressure 
called amlopidine, which you should continue to take.
.
Please contact Dr. ___, Dr. ___ go to the 
emergency room if you experience any chest pain, shortness of 
breath, fever, chills, bleeding or swelling at site of 
pacemaker, palpitations
 
Followup Instructions:
___